* ADG1408 SPICE Macro-model
* Generic Desc: 4ohm Ron, 8 Channel iCMOS Multiplexer
* Developed by: MBurke / ADLK
* Revision History: D (1/2020)
* Copyright 2020 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd/Vss from 5V to 16.5V single supply and +/-4.5V to +/-16.5V dual supply.
* The model provides parametric specifications at +/-16.5V only and is not variable with Vdd and Vss changes. Please see datasheet page 3.
*
* Not Modeled:
* Please see Connections Section below.
*
* Parameters modeled include:
*	On Resistance
*	Ton and Toff
*	Off Isolation
*	Crosstalk
*	Supply Currents: Iss/Idd
* 	Off Leakage (Drain)
*	Charge Injection
* Connections
*      1  = A0
*      2  = EN
*      3  = VSS
*      4  = S1
*      5  = S2
*      6  = S3
*      7  = S4
*      8  = D1
*      9  = S8
*      10  = S7
*      11  = S6
*      12  = S5
*      13  = VDD
*      14  = GND
*      15  = A2
*      16  = A1
*
.SUBCKT ADG1408 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=51200000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=90000 Roff=301000)
.MODEL VRESET VSWITCH(Von=5 Voff=0.8 Ron=2700000 Roff=1000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)

* EN
S30 2 187 2 14 VRESET
C80 187 14 5.5E-011

* CROSSTALK
C12X 4 5 2.4692545546139514E-14
C13X 4 6 2.4692545546139514E-14
C14X 4 7 2.4692545546139514E-14
C15X 4 12 2.4692545546139514E-14
C16X 4 11 2.4692545546139514E-14
C17X 4 10 2.4692545546139514E-14
C18X 4 9 2.4692545546139514E-14
C23X 5 6 2.4692545546139514E-14
C24X 5 7 2.4692545546139514E-14
C25X 5 12 2.4692545546139514E-14
C26X 5 11 2.4692545546139514E-14
C27X 5 10 2.4692545546139514E-14
C28X 5 9 2.4692545546139514E-14
C34X 6 7 2.4692545546139514E-14
C35X 6 12 2.4692545546139514E-14
C36X 6 11 2.4692545546139514E-14
C37X 6 10 2.4692545546139514E-14
C38X 6 9 2.4692545546139514E-14
C45X 7 12 2.4692545546139514E-14
C46X 7 11 2.4692545546139514E-14
C47X 7 10 2.4692545546139514E-14
C48X 7 9 2.4692545546139514E-14
C56X 12 11 2.4692545546139514E-14
C57X 12 10 2.4692545546139514E-14
C58X 12 9 2.4692545546139514E-14
C67X 11 10 2.4692545546139514E-14
C68X 11 9 2.4692545546139514E-14
C78X 10 9 2.4692545546139514E-14

* IDD/ISS
I1 13 14 0.002E-006
I2 3 14 0.002E-006

* Configuration: MUX 8:1

D11 3 8 DCLAMP
D12 8 13 DCLAMP
C15 8 14 14e-012
* ON RESISTANCE
Ech191 a191 14 VALUE = { IF ((ABS(V(a1g)))>(ABS(V(8))),V(a1g),V(8)) }
R191 a191 14 1G
S1a91 9a1 9b1 19a 14 VON
Ech291 19a 14 VALUE = { IF (V(a191)<-13.5,5,0) }
Ech391 9b1 14 VALUE = { IF (V(a191)<-13.5,0*(V(a191)--13.5)+4.6,0) }
S2a91 9a1 2b91 192a 14 VON
Ech491 192a 14 VALUE = { IF ((V(a191)>=-13.5) & (V(a191)<=15),5,0) }
Ech591 2b91 14 VALUE = { IF ((V(a191)>=-13.5) & (V(a191)<=15),((4.6-4.5)/((-13.5--4.63142581529253)*(-13.5--4.63142581529253)))*(V(a191)--4.63142581529253)*(V(a191)--4.63142581529253) + 4.5,0) }
S3a91 9a1 3b91 193a 14 VON
Ech691 193a 14 VALUE = { IF (V(a191)>15,5,0) }
Ech791 3b91 14 VALUE = { IF (V(a191)>15,0*(V(a191)-15)+4.99,0) }
RIN91 9a1 14	1G
FCOPY91 14 194a VSENSE91 1
RSENSOR91 194a 14	1K
EOUT91 a591 195a	POLY(2) (9a1,14) (194a,14) 0 0 0 0 0.999/1000
R291 a591 r2p 0.001
VSENSE91 195a a1g	0
*
* VOLTAGE SUPPLY REQUIREMENT
S913 r2p 8 91k 14 VON
S914 91l 91k 91l 14 VON
Ech915 91l 14 VALUE = { IF((V(3)<=-0.5 & V(3)>=-16.5) & (V(13)<=16.5 & V(13)>=4.5), 5 , 0.01 ) }
S915 91m 91k 91m 14 VON
Ech916 91m 14 VALUE = { IF((V(3)>=-0.5 & (V(13)<=16.5 & V(13)>=5)), 5 , 0.01 ) }


** SWITCH 1 D1 **
*
* ESD PROTECTION DIODES
D113 3 4 DCLAMP
D114 4 13 DCLAMP
*
* OFF ISOLATION
C111 4 8 2.5491598357288814E-14
*
* CHARGE INJECTION
C112 8 11N 3.0005217500476493E-13
C113 4 11N 3.0005217500476493E-13
*
* CD/CS OFF AND BANDWIDTH
C114 4 14 14E-012
*
* TON/ TOFF/ BBM
S111 4 a1g 11n 14 VON
S112 11i 11j 11i 14 VEN
Ech114 11i 14 VALUE = { IF(V(2)>=2 & V(1)<2 & V(16)<2 & V(15)<2, 5 , 0.8 ) }
eV11 11n 14 11j 14 1
C116 11j 14 1e-012
*

** SWITCH 2 D1 **
*
* ESD PROTECTION DIODES
D213 3 5 DCLAMP
D214 5 13 DCLAMP
*
* OFF ISOLATION
C211 5 8 2.5491598357288814E-14
*
* CHARGE INJECTION
C212 8 21N 3.0005217500476493E-13
C213 5 21N 3.0005217500476493E-13
*
* CD/CS OFF AND BANDWIDTH
C214 5 14 14E-012
*
* TON/ TOFF/ BBM
S211 5 a1g 21n 14 VON
S212 21i 21j 21i 14 VEN
Ech214 21i 14 VALUE = { IF(V(2)>=2 & V(1)>=2 & V(16)<2 & V(15)<2, 5 , 0.8 ) }
eV21 21n 14 21j 14 1
C216 21j 14 1e-012
*

** SWITCH 3 D1 **
*
* ESD PROTECTION DIODES
D313 3 6 DCLAMP
D314 6 13 DCLAMP
*
* OFF ISOLATION
C311 6 8 2.5491598357288814E-14
*
* CHARGE INJECTION
C312 8 31N 3.0005217500476493E-13
C313 6 31N 3.0005217500476493E-13
*
* CD/CS OFF AND BANDWIDTH
C314 6 14 14E-012
*
* TON/ TOFF/ BBM
S311 6 a1g 31n 14 VON
S312 31i 31j 31i 14 VEN
Ech314 31i 14 VALUE = { IF(V(2)>=2 & V(1)<2 & V(16)>=2 & V(15)<2, 5 , 0.8 ) }
eV31 31n 14 31j 14 1
C316 31j 14 1e-012
*

** SWITCH 4 D1 **
*
* ESD PROTECTION DIODES
D413 3 7 DCLAMP
D414 7 13 DCLAMP
*
* OFF ISOLATION
C411 7 8 2.5491598357288814E-14
*
* CHARGE INJECTION
C412 8 41N 3.0005217500476493E-13
C413 7 41N 3.0005217500476493E-13
*
* CD/CS OFF AND BANDWIDTH
C414 7 14 14E-012
*
* TON/ TOFF/ BBM
S411 7 a1g 41n 14 VON
S412 41i 41j 41i 14 VEN
Ech414 41i 14 VALUE = { IF(V(2)>=2 & V(1)>=2 & V(16)>=2 & V(15)<2, 5 , 0.8 ) }
eV41 41n 14 41j 14 1
C416 41j 14 1e-012
*

** SWITCH 5 D1 **
*
* ESD PROTECTION DIODES
D513 3 12 DCLAMP
D514 12 13 DCLAMP
*
* OFF ISOLATION
C511 12 8 2.5491598357288814E-14
*
* CHARGE INJECTION
C512 8 51N 3.0005217500476493E-13
C513 12 51N 3.0005217500476493E-13
*
* CD/CS OFF AND BANDWIDTH
C514 12 14 14E-012
*
* TON/ TOFF/ BBM
S511 12 a1g 51n 14 VON
S512 51i 51j 51i 14 VEN
Ech514 51i 14 VALUE = { IF(V(2)>=2 & V(1)<2 & V(16)<2 & V(15)>=2, 5 , 0.8 ) }
eV51 51n 14 51j 14 1
C516 51j 14 1e-012
*

** SWITCH 6 D1 **
*
* ESD PROTECTION DIODES
D613 3 11 DCLAMP
D614 11 13 DCLAMP
*
* OFF ISOLATION
C611 11 8 2.5491598357288814E-14
*
* CHARGE INJECTION
C612 8 61N 3.0005217500476493E-13
C613 11 61N 3.0005217500476493E-13
*
* CD/CS OFF AND BANDWIDTH
C614 11 14 14E-012
*
* TON/ TOFF/ BBM
S611 11 a1g 61n 14 VON
S612 61i 61j 61i 14 VEN
Ech614 61i 14 VALUE = { IF(V(2)>=2 & V(1)>=2 & V(16)<2 & V(15)>=2, 5 , 0.8 ) }
eV61 61n 14 61j 14 1
C616 61j 14 1e-012
*

** SWITCH 7 D1 **
*
* ESD PROTECTION DIODES
D713 3 10 DCLAMP
D714 10 13 DCLAMP
*
* OFF ISOLATION
C711 10 8 2.5491598357288814E-14
*
* CHARGE INJECTION
C712 8 71N 3.0005217500476493E-13
C713 10 71N 3.0005217500476493E-13
*
* CD/CS OFF AND BANDWIDTH
C714 10 14 14E-012
*
* TON/ TOFF/ BBM
S711 10 a1g 71n 14 VON
S712 71i 71j 71i 14 VEN
Ech714 71i 14 VALUE = { IF(V(2)>=2 & V(1)<2 & V(16)>=2 & V(15)>=2, 5 , 0.8 ) }
eV71 71n 14 71j 14 1
C716 71j 14 1e-012
*

** SWITCH 8 D1 **
*
* ESD PROTECTION DIODES
D813 3 9 DCLAMP
D814 9 13 DCLAMP
*
* OFF ISOLATION
C811 9 8 2.5491598357288814E-14
*
* CHARGE INJECTION
C812 8 81N 3.0005217500476493E-13
C813 9 81N 3.0005217500476493E-13
*
* CD/CS OFF AND BANDWIDTH
C814 9 14 14E-012
*
* TON/ TOFF/ BBM
S811 9 a1g 81n 14 VON
S812 81i 81j 81i 14 VEN
Ech814 81i 14 VALUE = { IF(V(2)>=2 & V(1)>=2 & V(16)>=2 & V(15)>=2, 5 , 0.8 ) }
eV81 81n 14 81j 14 1
C816 81j 14 1e-012
*
.ENDS ADG1408
